US08580800B2
Ethyl 4-(4-cyanophenyl)-1-[4-fluoro-3-(trifluoromethyl)phenyl]-6-methyl-2-oxo-1,2,3,4-tetrahydropyrimidine-5-carboxylate
The reaction was carried out under argon. In succession, 4-formylbenzonitrile (656 mg, 5.0 mmol), 1-[4-fluoro-3-(trifluoromethyl)phenyl]urea (1.11 g, 5.0 mmol) and ethyl acetoacetate (651 mg, 5.0 mmol) were added to a solution of ethyl polyphosphate (2.0 g; prepared from triethyl phosphate and diphosphorus pentoxide analogously to the process in Example 18A) in THF (25 ml). The mixture was stirred under reflux for 19 h and then concentrated. Ethyl acetate (150 ml) was added to the residue, and the mixture was washed successively with water (50 ml), saturated sodium bicarbonate solution (50 ml) and saturated sodium chloride solution (50 ml). The organic phase was dried over sodium sulphate and concentrated. The residue was purified by silica gel chromatography (mobile phase: cyclohexane→cyclohexane/ethyl acetate 2:3). This gave 1.40 g (63% of theory) of the target product.

reactant | 4-formylbenzonitrile | 5.0 mmol, 656 mg | C(=O)C1=CC=C(C#N)C=C1 | C8H5NO
reactant | 1-[4-fluoro-3-(trifluoromethyl)phenyl]urea | 5.0 mmol, 1.11 g | FC1=C(C=C(C=C1)NC(=O)N)C(F)(F)F | C8H6F4N2O
reactant | ethyl acetoacetate | 5.0 mmol, 651 mg | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | triethyl phosphate | P(=O)(OCC)(OCC)OCC | C6H15O4P
reactant | diphosphorus pentoxide | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | Ethyl 4-(4-cyanophenyl)-1-[4-fluoro-3-(trifluoromethyl)phenyl]-6-methyl-2-oxo-1,2,3,4-tetrahydropyrimidine-5-carboxylate | C(#N)C1=CC=C(C=C1)C1NC(N(C(=C1C(=O)OCC)C)C1=CC(=C(C=C1)F)C(F)(F)F)=O | C22H17F4N3O3
